US06683097B2
A solution of of 3,4-dichlorophenylhydrazine (4.27 g, 20.0 mmol) in EtOH (50 ml) and H2O (50 ml) was treated with 3-oxobutyraldehyde dimethyl acetal (2.64 g, 20.0 mmol) and refluxed for 1 h. The alcohol was removed in vacuo and the aqueous residue was extracted with AcOEt (2×150 ml). The organic phase was dried (Na2SO4), filtered and evaporated. The remaining oil was chromatographed [silica, elution with gradient hexane to 10% (hexane/AcOEt=1:1)] to obtain 3.01 g (66%) of 1-(3,4-dichloro-phenyl)-3-methyl-1H-pyrazole [Mp. 57-58° C. (AcOEt/hexane), MS: m/e=226 (M+)]as off-white crystals and 1.32 g (29%) of 1-(3,4-dichloro-phenyl)-5-methyl-1H-pyrazole [Mp. 46-47° C. (hexane), MS: m/e=226 (M+)]as white crystals.

reactant | 3,4-dichlorophenylhydrazine | 20.0 mmol, 4.27 g | ClC=1C=C(C=CC1Cl)NN | C6H6Cl2N2
reactant | 3-oxobutyraldehyde dimethyl acetal | 20.0 mmol, 2.64 g | COC(CC(C)=O)OC | C6H12O3
solvent | EtOH | 50 ml | CCO | C2H6O
solvent | H2O | 50 ml | O | H2O
product | 1-(3,4-dichloro-phenyl)-3-methyl-1H-pyrazole | 3.01 g, 66% | ClC=1C=C(C=CC1Cl)N1N=C(C=C1)C | C10H8Cl2N2
